US04621089
Ethyl 7-(4-Hydroxyanilino)-1H-pyrazolo[4,3-b]pyridine-6-carboxylate (E3)
Ethyl 7-chloro-1H pyrazolo[4,3-b]pyridine-6-carboxylate (1.0 g, 0.004 mole) and p-aminophenol (1.0 g, 0.009 mole) were stirred together in ethyl acetate (200 ml) under nitrogen for 48 hours, the temperature being maintained between -10° and -5° C. The ethyl acetate was removed under reduced pressure to give a yellow solid. This solid was dissolved in aqueous ethanol and the pH adjusted to pH8 with 10% sodium carbonate solution. The resulting solid was filtered off washed with water and dried. Recrystallization from methanol/ethyl acetate gave the title compound as a pale yellow solid (650 mg, 50%), m.p. 286°-287° C. (decomposition)

reactant | Ethyl 7-chloro-1H pyrazolo[4,3-b]pyridine-6-carboxylate | 0.004 mole, 1.0 g | ClC1=C2C(=NC=C1C(=O)OCC)C=NN2 | C9H8ClN3O2
reactant | p-aminophenol | 0.009 mole, 1.0 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 7-(4-Hydroxyanilino)-1H-pyrazolo[4,3-b]pyridine-6-carboxylate | 650 mg, 50% | OC1=CC=C(NC2=C3C(=NC=C2C(=O)OCC)C=NN3)C=C1 | C15H14N4O3
